US06329370B1
4-(6-Methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-butyric acid methyl ester (Compound 65)
A solution of 3-formyl-propionic acid methyl ester (13.4 g, 0.1155 moles) and (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide (55.6 g, 0.11 moles), prepared as described in example 36, in CH2Cl2 (440 ml) in water bath was dropwise added with triethylamine (16.1 ml, 0.1155 mole). At the end of the addition the mixture was stirred at room temperature overnight, then washed with water, anhydrified and dried to give a residue which was taken up in ethanol (180 ml). The solution was cooled and added with hydrazine monohydrate (11 g, 0.22 mole). A precipitate formed and was filtered. After 6 days the mother liquors gave a precipitate which joined to the previous one yielded 23 g of the title compound (yield: 75.5%). m.p.: 175-177° C.

reactant | 3-formyl-propionic acid methyl ester | 0.1155 moles, 13.4 g | COC(CCC=O)=O | C5H8O3
reactant | (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide | 0.11 moles, 55.6 g | [Br-].COC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | triethylamine | 0.1155 mole, 16.1 ml | C(C)N(CC)CC | C6H15N
reactant | hydrazine monohydrate | 0.22 mole, 11 g | O.NN
solvent | CH2Cl2 | 440 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 4-(6-Methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-butyric acid methyl ester | 23 g, yield: 75.5% | COC(CCCC1=NNC(C2=CC(=CC=C12)OC)=O)=O | C14H16N2O4
